* d:\esim_tut\files\mian_decoder\mian_decoder.cir

* u3  net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ net-_u11-pad1_ net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ main_decoder
* u10  net-_u1-pad~_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ adc_bridge_8
* u12  net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ mem res alusrc pc imm1 imm0 alu1 alu0 dac_bridge_8
* u11  net-_u11-pad1_ regwrite dac_bridge_1
v1  net-_u1-pad~_ gnd pulse(5 0 1m 1m 1m 80 160)
v2  net-_u10-pad2_ gnd pulse(5 0 1m 1m 1m 100 160)
v3  net-_u10-pad3_ gnd pulse(5 0 1m 1m 1m 40 160)
v4  net-_u10-pad4_ gnd pulse(0 5 1m 1m 1m 100 160)
v5  net-_u10-pad5_ gnd pulse(5 0 1m 1m 1m 80 160)
v6  net-_u10-pad6_ gnd pulse(5 0  1m 1m 1m 120 160)
v7  net-_u10-pad7_ gnd pulse(0 5 1m 1m 1m 140 160)
v8  net-_u10-pad8_ gnd pulse(5 0 1m 1m 1m 110 160)
* u18  imm0 plot_v1
* u16  alu1 plot_v1
* u14  alu0 plot_v1
* u13  regwrite plot_v1
* u15  mem plot_v1
* u17  res plot_v1
* u19  alusrc plot_v1
* u20  pc plot_v1
* u21  imm1 plot_v1
* u1  net-_u1-pad~_ plot_v1
* u4  net-_u10-pad2_ plot_v1
* u6  net-_u10-pad3_ plot_v1
* u8  net-_u10-pad4_ plot_v1
* u9  net-_u10-pad5_ plot_v1
* u7  net-_u10-pad6_ plot_v1
* u5  net-_u10-pad7_ plot_v1
* u2  net-_u10-pad8_ plot_v1
a1 [net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ ] [net-_u10-pad16_ ] [net-_u11-pad1_ ] [net-_u12-pad1_ ] [net-_u12-pad2_ ] [net-_u12-pad3_ ] [net-_u12-pad4_ net-_u12-pad5_ ] [net-_u12-pad6_ net-_u12-pad7_ ] u3
a2 [net-_u1-pad~_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ net-_u10-pad7_ net-_u10-pad8_ ] [net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u10-pad13_ net-_u10-pad14_ net-_u10-pad15_ net-_u10-pad16_ ] u10
a3 [net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ net-_u12-pad4_ net-_u12-pad5_ net-_u12-pad6_ net-_u12-pad7_ net-_u12-pad8_ ] [mem res alusrc pc imm1 imm0 alu1 alu0 ] u12
a4 [net-_u11-pad1_ ] [regwrite ] u11
* Schematic Name:                             main_decoder, NgSpice Name: main_decoder
.model u3 main_decoder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u12 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u11 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 160e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(imm0)
plot v(alu1)
plot v(alu0)
plot v(regwrite)
plot v(mem)
plot v(res)
plot v(alusrc)
plot v(pc)
plot v(imm1)
plot v(net-_u1-pad~_)
plot v(net-_u10-pad2_)
plot v(net-_u10-pad3_)
plot v(net-_u10-pad4_)
plot v(net-_u10-pad5_)
plot v(net-_u10-pad6_)
plot v(net-_u10-pad7_)
plot v(net-_u10-pad8_)
.endc
.end
